US03962438
10-Trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-3-one-1(2H)-thione-7-oxide
When an equivalent amount of 10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-3-one-1(2H)-thione is substituted in the procedure of Example 6 for 10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione, the title compound is obtained.

reactant | 10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-3-one-1(2H)-thione | FC(C1=CC=2N3C4=C(C=CC=C4SC2C=C1)C(NC3=S)=O)(F)F | C15H7F3N2OS2
reactant | 10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione | FC(C1=CC=2N3C4=C(C=CC=C4SC2C=C1)C(NC3=O)=O)(F)F | C15H7F3N2O2S
product | 10-Trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-3-one-1(2H)-thione-7-oxide | FC(C1=CC=2N3C4=C(C=CC=C4S(C2C=C1)=O)C(NC3=S)=O)(F)F | C15H7F3N2O2S2
